US07622466B2
(4,4-Difluoro-piperidin-1-yl)-[1-(2-hydroxy-ethyl)-5-(1-isopropyl-piperidin-4-yloxy)-1H-pyrrolo[2,3-b]pyridin-2-yl]-methanone
The solution of 55 mg (97 μmol) [1-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-5-(1-isopropyl-piperidin-4-yloxy)-1H-pyrrolo[2,3-b]pyridin-2-yl]-(4,4-difluoro-piperidin-1-yl)-methanone was cooled down to 0° C. and 1 ml (1.49 g, 13 mmol) trifluoroacetic acid was added. The cooling bath was removed and stirring was continued for another hour at room temperature. The reaction was neutralized with 1M aqueous sodium hydroxide solution and extracted three times with dichloromethane. The combined organic layers were washed with brine, dried over magnesium sulfate, filtered and evaporated. The crude product was purified by flash-chromatography on silica gel with dichloromethane:methanol:ammonia (9:1:0.1 v/v) as eluant to give 29 mg (66%) of the product as a light yellow oil.

reactant | [1-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-5-(1-isopropyl-piperidin-4-yloxy)-1H-pyrrolo[2,3-b]pyridin-2-yl]-(4,4-difluoro-piperidin-1-yl)-methanone | 97 μmol, 55 mg | C(C)(C)(C)[Si](OCCN1C(=CC=2C1=NC=C(C2)OC2CCN(CC2)C(C)C)C(=O)N2CCC(CC2)(F)F)(C)C | C29H46F2N4O3Si
reactant | trifluoroacetic acid | 13 mmol, 1 ml, 1.49 g | FC(C(=O)O)(F)F | C2HF3O2
product | (4,4-Difluoro-piperidin-1-yl)-[1-(2-hydroxy-ethyl)-5-(1-isopropyl-piperidin-4-yloxy)-1H-pyrrolo[2,3-b]pyridin-2-yl]-methanone | 29 mg, 66% | FC1(CCN(CC1)C(=O)C1=CC=2C(=NC=C(C2)OC2CCN(CC2)C(C)C)N1CCO)F | C23H32F2N4O3
